US08426604B2
5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-[(2,3-dihydroxy-propyl)-methyl-amino]-thiazol-4-one was prepared from 5-[1-(4-chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-ethylsulfanyl-thiazolidin-4-one and 3-Methylamino-propane-1,2-diol following General Procedure C.

reactant | 5-[1-(4-chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-ethylsulfanyl-thiazolidin-4-one | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(NC(S2)SCC)=O)C=C1)C(F)(F)F | C21H17ClF3N3OS2
reactant | 3-Methylamino-propane-1,2-diol | CNCC(CO)O | C4H11NO2
product | 5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-[(2,3-dihydroxy-propyl)-methyl-amino]-thiazol-4-one | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(N=C(S2)N(C)CC(CO)O)=O)C=C1)C(F)(F)F | C23H20ClF3N4O3S
